US08039450B2
To a solution of 4-(4-bromo-3-(1,3-dioxolan-2-yl)phenoxy)-3-methoxymethoxybenzonitrile (32.2 g, 79.3 mmol) in tetrahydrofuran (300 mL) was added 3 M HCl (100 mL), and the mixture was refluxed for 2 h. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 4-(4-bromo-3-formylphenoxy)-3-hydroxybenzonitrile (25.8 g, quant.).

reactant | 4-(4-bromo-3-(1,3-dioxolan-2-yl)phenoxy)-3-methoxymethoxybenzonitrile | 79.3 mmol, 32.2 g | BrC1=C(C=C(OC2=C(C=C(C#N)C=C2)OCOC)C=C1)C1OCCO1 | C18H16BrNO5
reactant | HCl | 3 M, 100 mL | Cl | ClH
reactant | Water | O | H2O
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | 4-(4-bromo-3-formylphenoxy)-3-hydroxybenzonitrile | 25.8 g | BrC1=C(C=C(OC2=C(C=C(C#N)C=C2)O)C=C1)C=O | C14H8BrNO3
